US07470799B2
(R)-N-[7-(2,6-Dichloro-phenyl)-5-fluoro-2,3-dihydro-benzofuran-2-ylmethyl]-acetamide
(R)-[7-(2,6-Dichloro-phenyl)-5-fluoro-2,3-dihydro-benzofuran-2-yl]-methylamine hydrochloride (0.050 g, 0.14 mmol) was suspended in 5.0 mL of methylene chloride and diisopropylethylamine (0.072 g, 0.56 mmol) and acetic anhydride (0.029 g, 0.28 mmol) added. The mixture was stirred at room temperature for 30 min, diluted to 100 mL with methylene chloride, washed with 50 mL portions of 2 N HCl (aqueous), saturated aqueous sodium bicarbonate and saturated brine. The solution was dried over sodium sulfate, filtered and concentrated in vacuum to give 0.043 g of the title compound as a white crystalline solid. 1H-NMR (CDCl3): multiplet 7.4 δ (1H); multiplet 7.33 δ (2H); doublet 6.95 δ (1H); doublet 6.72 δ (1H); broad singlet 5.8 δ (1H); multiplet 4.9 δ (1H); doublet of doublets 3.6 δ (1H); doublet of doublets 3.47 δ (1H); doublet of doublets 3.38 δ (1H); doublet of doublets 3.0 δ (1H); singlet 1.9 δ (3H).

reactant | (R)-[7-(2,6-Dichloro-phenyl)-5-fluoro-2,3-dihydro-benzofuran-2-yl]-methylamine hydrochloride | 0.14 mmol, 0.050 g | Cl.ClC1=C(C(=CC=C1)Cl)C1=CC(=CC=2C[C@@H](OC21)NC)F
reactant | diisopropylethylamine | 0.56 mmol, 0.072 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | acetic anhydride | 0.28 mmol, 0.029 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | methylene chloride | 5.0 mL | C(Cl)Cl | CH2Cl2
product | (R)-N-[7-(2,6-Dichloro-phenyl)-5-fluoro-2,3-dihydro-benzofuran-2-ylmethyl]-acetamide | 0.043 g | ClC1=C(C(=CC=C1)Cl)C1=CC(=CC=2C[C@@H](OC21)CNC(C)=O)F | C17H14Cl2FNO2
